US04000305
A solution of ethyl (2,5-dichloropyrid-3-yloxy)-acetate (200mg.) in glacial acetic acid (8ml.) was stirred overnight under reflux with acid washed zinc powder (1.0g.). The solution was cooled and filtered and the filtrate was evaporated to dryness. The residue was purified by chromatography on silica gel to yield ethyl(5-chloropyrid-3-yloxy)acetate, m.p. 38°-40° C. (ether-pentane).

reactant | ethyl (2,5-dichloropyrid-3-yloxy)-acetate | 200mg | ClC1=NC=C(C=C1OCC(=O)OCC)Cl | C9H9Cl2NO3
solvent | acetic acid | 8ml | C(C)(=O)O | C2H4O2
product | ethyl(5-chloropyrid-3-yloxy)acetate | C(C)OC(COC=1C=NC=C(C1)Cl)=O | C9H10ClNO3
